### PR TITLE
feat: allow turnstiles anywhere in location sequences

### LINKED ISSUE #2278: Support `at ⊢ h` as a `Location`
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

It would be nice if `at ⊢ h₁ h₂` was supported as a `Location`, as well as `at h₁ h₂ ⊢`. Users seem to type it often, and only get the error message `expected '*' or term`.

### Steps to Reproduce

```
theorem foo : 1 = 2 := sorry

theorem bar (h : 1 = 7) : 7 = 1 := by
  rw [foo] at ⊢ h
  exact h.symm
```

**Desired behavior:** Success

**Actual behavior:** `expected '*' or term` on `⊢`.

### Versions

Lean (version 4.0.0-nightly-2023-06-10, commit bff612e59e48, Release)

### PR DESCRIPTION
**Pull request by jrr6**
This PR changes the syntax of location modifiers for tactics like `simp` and `rw` (e.g., `simp at h ⊢`) to allow the turnstile `⊢` to appear anywhere in the sequence of locations.

Closes #2278.

### CODE REVIEW

File: src/Init/Tactics.lean [hunk 1]
```diff
@@ -461,11 +461,14 @@ syntax config := atomic(" (" &"config") " := " withoutPosition(term) ")"
...
 
+/-- The `⊢` location refers to the current goal. -/
+syntax locationTurnstile := patternIgnore(atomic("|" noWs "-") <|> "⊢")
+
 /--
 A hypothesis location specification consists of 1 or more hypothesis references
 and optionally `⊢` denoting the goal.
 -/
-syntax locationHyp := (ppSpace colGt term:max)+ patternIgnore(ppSpace (atomic("|" noWs "-") <|> "⊢"))?
+syntax locationHyp := (ppSpace colGt (term:max <|> locationTurnstile))+
```
Comment (nomeata) [inline src/Init/Tactics.lean:471]: Does the docstring show up in hovers? If so, maybe polish the wording a bit while you are at it.

Comment (jrr6) [reply src/Init/Tactics.lean:471]: It generally doesn't appear in hovers because it's superseded by either the `locationTurnstile` docstring or hover info for local hypotheses. (Hovering over `at` gives the docstring for `location`.) The only time I could get it to appear was when hovering over an invalid identifier in a `locationHyp`. This makes the plurality of the following rephrasing I was considering potentially somewhat confusing, since it appears when hovering over a *particular* (invalid) hypothesis:

> A sequence of locations at which a tactic should operate. These can include local hypotheses and `⊢`, which denotes the goal.

On the other hand, `locationHyp` does represent the full sequence, so phrasing the docstring singularly would make the code itself confusing, which I suspect is more troublesome.

Comment (nomeata) [reply src/Init/Tactics.lean:471]: I'd say if in doubt, optimize for user visible hovers. Comments for people reading the code can be normal code comments.

Comment (jrr6) [reply src/Init/Tactics.lean:471]: I've updated the docstring to use a variation on the wording quoted above. I think this is still an improvement clarity-wise, even in the rare cases it appears on hover, and using the plural maintains consistency with hover docstrings of other sequential syntax elements (e.g., tactic blocks).

File: src/Init/Tactics.lean [hunk 2]
```diff
@@ -461,11 +461,14 @@ syntax config := atomic(" (" &"config") " := " withoutPosition(term) ")"
...
+/-- The `⊢` location refers to the current goal. -/
+syntax locationTurnstile := patternIgnore(atomic("|" noWs "-") <|> "⊢")
+
 /--
-A hypothesis location specification consists of 1 or more hypothesis references
-and optionally `⊢` denoting the goal.
+A sequence of one or more locations at which a tactic should operate. These can include local
+hypotheses and `⊢`, which denotes the goal.
 -/
-syntax locationHyp := (ppSpace colGt term:max)+ patternIgnore(ppSpace (atomic("|" noWs "-") <|> "⊢"))?
```
Comment (nomeata) [inline src/Init/Tactics.lean:468]: Do you know why this wasn't `"|-"` like it was below? What's the difference, and which one is better? (Genuine question, I don't know the parser well.)

Comment (jrr6) [reply src/Init/Tactics.lean:468]: Here's what the doc comment on `Lean.Parser.checkNoWsBefore` says about this:

> The `noWs` parser requires that there is *no* whitespace between the preceding and following
parsers. For example, the parser `"foo" noWs "+"` parses `foo+` but not `foo +`.
> 
> This is almost the same as `"foo+"`, but using this parser will make `foo+` a token, which may cause
problems for the use of `"foo"` and `"+"` as separate tokens in other parsers.

Looking at #2299, which introduced this change, it looks like parsing `|-` as a token breaks the notation `|-n|`.

Comment (nomeata) [reply src/Init/Tactics.lean:468]: So I assume it’s better to do that in `syntax locationTurnstile` then?

Comment (jrr6) [reply src/Init/Tactics.lean:468]: Yes, I kept the `noWs` version in `locationTurnstile`—I just checked, and it seems that making `|-` a token would still interfere with absolute-value notation. Is there somewhere you're seeing where I forgot to do this?

File: src/Lean/Elab/Tactic/Location.lean [hunk 3]
```diff
@@ -21,7 +21,8 @@ inductive Location where
 Recall that
 ```
 syntax locationWildcard := "*"
-syntax locationHyp      := (colGt term:max)+ ("⊢" <|> "|-")?
+syntax locationTurnstile := ("|-" <|> "⊢")
```
Comment (nomeata) [inline src/Lean/Elab/Tactic/Location.lean:24]: Doesn't this make it a token? (Maybe I'm confused)

Comment (jrr6) [reply src/Lean/Elab/Tactic/Location.lean]: Oh, sorry, good catch; I forgot to update this comment. (The actual declaration in `Init/Tactics.lean` is correct, though.)

Comment (nomeata) [reply src/Lean/Elab/Tactic/Location.lean]: Oh, it's a comment! My bad. (Easy to miss when looking at the side)

**Comment by nomeata** [comment]
Are you sure this PR doesn't work without stage0 update? Have you played with the `preferNative` flag, or the `parseQuotWithCurrentStage`?

**Comment by jrr6** [comment]
> Are you sure this PR doesn't work without stage0 update? Have you played with the `preferNative` flag, or the `parseQuotWithCurrentStage`?

No matter what permutation of those two flags I use, if I don't do the intermediate stage0 update, I get the following error at a `simp … at at h ⊢` invocation in core:

> Init/Data/String/Basic.lean:738:51: error: elaboration function for 'Lean.Parser.Tactic.locationTurnstile' has not been implemented
>  ⊢

It seems as though the syntax change registers, but it's still using the built-in elaboration function from the old stage0, which is expecting the old syntax.

File: src/Init/Tactics.lean [hunk 4]
```diff
@@ -461,11 +461,14 @@ syntax config := atomic(" (" &"config") " := " withoutPosition(term) ")"
 /-- The `*` location refers to all hypotheses and the goal. -/
 syntax locationWildcard := " *"
 
+/-- The `⊢` location refers to the current goal. -/
+syntax locationTurnstile := patternIgnore(atomic("|" noWs "-") <|> "⊢")
```
Comment (kmill) [inline src/Init/Tactics.lean:465]: What do you think about calling this `locationType` to mirror the field in `Location.target`? The fact that the symbol is known as a turnstile is a little bit of trivia.

I'm not sure what we've decided for naming the parts of a goal. I've seen "goal", "target", and "goal type" for the type of a goal. Using "goal" for the goal's type might be acceptable synecdoche.

We don't have to solve the issue for the docstrings in this PR. But, as you know from bootstrapping issues, it would be nice to at least not have to rename the `syntax` definition later!

File: src/Lean/Elab/Tactic/Location.lean [hunk 5]
```diff
@@ -20,17 +20,21 @@ inductive Location where
...
 def expandLocation (stx : Syntax) : Location :=
   let arg := stx[1]
   if arg.getKind == ``Parser.Tactic.locationWildcard then
     Location.wildcard
   else
-    Location.targets arg[0].getArgs (!arg[1].isNone)
+    let locationHyps := arg[0].getArgs
+    let hypotheses := locationHyps.filter (·.getKind != ``Parser.Tactic.locationTurnstile)
+    let numTurnstiles := locationHyps.size - hypotheses.size
+    Location.targets hypotheses (numTurnstiles > 0)
```
Comment (kmill) [inline src/Lean/Elab/Tactic/Location.lean:37]: Here's one way to deal with the bootstrapping issues:
```lean
  else Id.run do
    let mut hypotheses := #[]
    let mut type := false
    for hyp in arg[0].getArgs do
      if hyp.isOfKind ``Parser.Tactic.locationTurnstile then
        -- Ideally we could do this, but we're not in a relevant monad:
        -- if type then logWarningAt hyp "duplicate target location"
        type := true
      else
        -- Stopgap before stage0 update: detect old syntax for the location
        if hyp.isToken "⊢" || (hyp.isOfKind nullKind && hyp[0].isToken "|" && hyp.isToken "-") then
          type := true
        else
          hypotheses := hypotheses.push hyp
    Location.targets hypotheses type
```
(untested!)

With this, the PR doesn't need to have a stage0 update at all. After a future stage0 update, you can come back and clean up the code.

The issue is that there are tactics that are in stage0 that use the old `expandLocation` with the old assumptions on the syntax. The flags can't help because the new `expandLocation` won't be imported when building the early part of the prelude.

Comment (jrr6) [reply src/Lean/Elab/Tactic/Location.lean:37]: This unfortunately also doesn't work (I've tested a couple of variations just to make sure)—I think this is similar to my workaround in de1bd34 (the first commit of this PR). As best I can tell, the relevant `expandLocation` being invoked during built-in elaboration is in stage0, so the changes above don't actually affect elaboration during the build. So it seems that we need to update `expandLocation`, then update stage0, and then update `locationHyp` (and clean up `expandLocation`), in that order. If it would be better to split the first and third into separate PRs (rather than including the stage0 update as part of the PR), though, I'm happy to do that!

Comment (kmill) [reply src/Lean/Elab/Tactic/Location.lean:37]: Did you try this in conjunction with setting this option?
```
    opts = opts.update({"interpreter", "prefer_native"}, true);
```
I recently had good luck with this when changing core syntax that had stage0 elaborators, while making a similar old-syntax detector.

Worst case, yes, I'd make an updated `expandLocation` first that handles the current syntax and the syntax-yet-to-be, merge that, update stage0, and then update the syntax. You'll probably still need to keep the interim `expandLocation` for this, since there are surely some compiled syntax quotations using the old syntax at this point. *Then* after another stage0 update, we can clean it up.

(Sometimes I wonder if we should have a separate bootstrapped "micro-Lean" that Lean core is built on to insulate us from these issues!)

Comment (jrr6) [reply src/Lean/Elab/Tactic/Location.lean:37]: Still no luck even with `prefer_native` set to `true`, sadly.

File: src/Init/Tactics.lean (hunk 4 above)
Comment (jrr6) [reply src/Init/Tactics.lean]: Thanks, I've made this change!
